US08053438B2
STEP 2: 2-FLUORO-3-(4-FLUOROTETRAHYDRO-2H-PYRAN-4-YL)PYRAZINE
To a solution of 4-(3-fluoropyrazin-2-yl)tetrahydro-2H-pyran-4-ol (0.123 g, 0.621 mmol) in DCM (2 mL) cooled to 0° C. was added dropwise dast (0.164 mL, 1.241 mmol). The resulting mixture was stirred for 2 hr. Reaction was quenched with dropwise addition of saturated NaHCO3 solution and back extracted with DCM to produce product.

reactant | 4-(3-fluoropyrazin-2-yl)tetrahydro-2H-pyran-4-ol | 0.621 mmol, 0.123 g | FC=1C(=NC=CN1)C1(CCOCC1)O | C9H11FN2O2
reactant | dast | 1.241 mmol, 0.164 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-FLUORO-3-(4-FLUOROTETRAHYDRO-2H-PYRAN-4-YL)PYRAZINE | FC1=NC=CN=C1C1(CCOCC1)F | C9H10F2N2O
